US08440662B2
Scheme 1 depicts a first synthesis of the boronic acid pinacol ester intermediate compound [1]. Specifically, a 4-nitrobenzoic acid [A] is converted to the corresponding amide [B] using an amine such as R7R8NH, a coupling agent such as EDCI.HCl, DCC, HBTU, or HATU, an additive such as HOBt or HOAt, a base such as TEA or DIPEA and solvent such as DMF, THF, or DCM. In one embodiment, the amine may be NH3, NH2CH3, NH(CH3)2, morpholine, piperidine, 1-methyl-piperazine and N(CH3)2CH2CH2N(CH3)2, among others. Typically, this is performed at rt such as about 25 to about 30° C. for about 10 to about 15 h such as about 10 h. The 4-nitro amide [B] is then reduced to the corresponding amine [C] using H2 and a catalyst such as Pd/C 10%, PtO2, or Pd(OH)2. Typically, the reduction is performed under pressures such as 60 psi, in a solvent such as MeOH, dioxane, or ethylacetate, for about 3 to about 5 h such as about 3 h. Amine [C] is then converted to urea [D] using an appropriately substituted isocyanate such as 4-bromophenyl isocyanate. This reaction is typically performed in the presence of a base such as TEA or DIPEA and solvent such as CH2Cl2, CHCl3, or THF at about rt such as about 25 to about 30° C. for about 5 to about 15 h such as about 12 h. As one alternative method, amine [α] can be converted to the corresponding 2,2,2-trichloro-ethyl carbamate and then reacted with an appropriately substituted aniline or pyridinyl amine, to produce the desired urea [D]. For example, amine [C] would typically be treated with 2,2,2-trichloroethyl chloroformate in the presence of a base such as triethylamine or DIPEA, in a solvent such as CH2Cl2, CHCl3, or THF, at temperatures such as 0° C. to about 30° C. for about 30 minutes to 5 hours, to produce the 2,2,2-tri-chloroethyl carbamate intermediate. Then the 2,2,2-trichloroethyl carbamate intermediate is typically reacted with the aniline or pyridinyl amine in the presence of a base such as triethylamine or DIPEA, in a solvent such as toluene, 1,4-dioxane or THF, at about room temperature up to elevated temperatures such as about 110° C. for about 1 to 16 hours. This alternative two-step procedure provides the urea [D]. Intermediate boronic acid pinacal ester [1] is then formed by reacting urea [D] with bis(pinacolato)diboron. This reaction may be performed in the presence of a weak base such as KOAc, palladium catalyst such as Pd(dppf)Cl2.DCM or Pd(dppf)Cl2, in a solvent such as 1,4-dioxane or DMF. Desirably, the reaction is performed at elevated temperatures such as the reflux temperatures of the solvent. In one embodiment, this reaction is performed at about 80 to about 120° C. for about 2 to about 15 h. In another embodiment, this reaction is performed at about 110° C. for about 10 h.

reactant | 2,2,2-trichloroethyl chloroformate | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-tri-chloroethyl carbamate | C(N)(OCC(Cl)(Cl)Cl)=O | C3H4Cl3NO2
